US07354942B2
To a solution of methyl 3-({2-[(tert-butoxycarbonyl)amino]-2-methyl-3-phenylpropoxy}methyl)-5-[(methylsulfonyl)(propyl)amino]benzoate (462 mg, 0.842 mmol) in THF (15 mL) was added aq. LiOH (4.21 mL, 4.21 mmol, 1N). After stirring vigorously at rt for 20 h, the reaction mixture was acidified to pH 4 with HCl (4.07 nL, 4.07 mmol, 1N), extracted with dichloromethane, dried over sodium sulfate and concentrated in vacuo to provide 3-({2-[(tert-butoxycarbonyl)amino]-2-methyl-3-phenylpropoxy}methyl)-5-[(methylsulfonyl)(propyl)amino]benzoic acid as a white foam. 1H NMR (400 MHz, CDCl3) δ 8.05 (s, 1H), 7.96 (s, 1H), 7.61 (s, 1H), 7.30-7.20 (m, 3H), 7.18-7.13 (m, 2H) 4.66-4.57 (m, 3H), 3.68 (t, J=7.2 Hz, 2H), 3.59 (A of AB, br d, J=8.5 Hz, 1H), 3.49 (B of AB, br d, J=8.5 Hz, 1H), 3.15 (A of AB, d, J=13.3 Hz, 1H), 2.93 (B of AB, d, J=13.3 Hz, 1H), 2.91 (s, 3H), 1.57-1.45 (m, 2H), 1.47 (s, 9H), 1.27 (s, 3H), 0.92 (t, J=7.4 Hz, 3H).

reactant | methyl 3-({2-[(tert-butoxycarbonyl)amino]-2-methyl-3-phenylpropoxy}methyl)-5-[(methylsulfonyl)(propyl)amino]benzoate | 0.842 mmol, 462 mg | C(C)(C)(C)OC(=O)NC(COCC=1C=C(C(=O)OC)C=C(C1)N(CCC)S(=O)(=O)C)(CC1=CC=CC=C1)C | C28H40N2O7S
reactant | LiOH | 4.21 mmol, 1N, 4.21 mL | [Li+].[OH-]
reactant | HCl | 4.07 mmol, 1N, 4.07 nL | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-({2-[(tert-butoxycarbonyl)amino]-2-methyl-3-phenylpropoxy}methyl)-5-[(methylsulfonyl)(propyl)amino]benzoic acid | C(C)(C)(C)OC(=O)NC(COCC=1C=C(C(=O)O)C=C(C1)N(CCC)S(=O)(=O)C)(CC1=CC=CC=C1)C | C27H38N2O7S
